US04436905
First 51.2 g (0.5 mol) of acetic acid anhydride and then 27.8 g (0.25 mol) of pivaloyl cyanide were introduced, in each case at room temperature, into 98.0 g (1.0 mol) of initially introduced concentrated sulphuric acid. After this reaction mixture has been stirred for a further hour at 40° C., it was stirred into a solution of 23.3 g (0.25 mol) of 4-methyl-thiosemicarbazide in 200 ml of 1 N HCl. After the end of the addition, the mixture was stirred for a further hour at room temperature. The pH value was then adjusted to about 5 with 1,200 ml of 2 N NaOH, and the mixture was warmed to 80° C. for one hour. After the mixture had cooled, the precipitated reaction product was filtered off under suction, washed with 200 ml of water and dried. 45.8 g (92% of theory) of 6-tert.-butyl-4-methyl-5-oxo-3-thioxo-tetrahydro-1,2,4-(2H, 4H)-triazine were obtained as colorless crystals of melting point 214° C.; purity according to gas chromatographic determination >99%. For subsequent reactions, no further purification operations were required.

reactant | acetic acid anhydride | 0.5 mol, 51.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pivaloyl cyanide | 0.25 mol, 27.8 g | C(C(C)(C)C)(=O)C#N | C6H9NO
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4-methyl-thiosemicarbazide | 0.25 mol, 23.3 g | CNC(NN)=S | C2H7N3S
reactant | NaOH | 2 N, 1,200 ml | [OH-].[Na+]
solvent | HCl | 1 N, 200 ml | Cl | ClH
product | 6-tert.-butyl-4-methyl-5-oxo-3-thioxo-tetrahydro-1,2,4-(2H, 4H)-triazine | 45.8 g, 92% | C(C)(C)(C)C1C(N(C(NN1)=S)C)=O | C8H15N3OS
